2155-04-28 10:18:00 Physician Attending Progress Note
Chief Complaint: Anemia Secondary to Blood Loss
   Hypovolemia--secondary to blood loss
   Hyperglycemia--DM-_Type I--uncontrolled
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2155-4-27**] 07:48 PM
   started in or
   -Patient with no evidence of acute bleeding overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;  sneezing
   Penicillins
   Hives; Fever/Ch
   Last dose of Antibiotics:
   Clindamycin - [**2155-4-28**] 07:45 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Flowsheet Data as of  [**2155-4-28**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 74 (64 - 92) bpm
   BP: 94/39(60) {52/35(49) - 105/55(71)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 99%
   Height: 67 Inch
           Total In:
                                                                  4,870 mL
                                                                  1,534 mL
   PO:
           TF:
   IVF:
                                                                    665 mL
                                                                  1,379 mL
   Blood products:
                                                                    155 mL
                                                                    155 mL
   Total out:
                                                                    400 mL
                                                                  1,310 mL
   Urine:
                                                                    100 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,470 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   178 K/uL
   112 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   6 mg/dL
   108 mEq/L
   139 mEq/L
   22.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2155-4-27**]  09:02 PM
                             [**2155-4-28**]  03:10 AM
   WBC
   8.4
   Hct
   25.3
   22.7
   Plt
   178
   Cr
   0.3
   Glucose
   112
   Other labs: PT / PTT / INR:13.5/23.6/1.2, Fibrinogen:220 mg/dL,
   Mg++:1.5 mg/dL
   Fluid analysis / Other labs: AG-5
   Assessment and Plan
   34 yo female admitted with anemia secondary to blood loss from vaginal
   bleeding complicated by LOC and followed by D+C where 2 liters of blood
   loss was seen and now patient admitted to ICU with hypovolemic shock
   secondary to blood loss.  She has had rapid intervention with D+C and
   now has had good stability of HCT with only modest decrease overnight.
 DIABETES MELLITUS (DM), TYPE I--Uncontrolled
   -Insulin gtt.
   -Will move to insulin pump at patients baseline dose
 UTERINE BLEEDING
   -Clindamycin
   -Foley in place and will leave balloon inflated until further notice
   -HCT q 4 hours
   -Will continue to follow
   -D+C completed
   -will follow for evidence of acute blood loss
   -FFP given and will follow coags and fibrinogen across time
may need to
   be replaced prior to balloon removal
   ICU Care
   Nutrition: PO intake
   Glycemic Control:  Insulin gtt and will move to insulin infusion if we
   are able to return to po intake
   Lines:
   18 Gauge - [**2155-4-27**] 07:46 PM
   Arterial Line - [**2155-4-27**] 07:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI to be given if prolonged npo status to be maintained.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2155-04-29 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bolused 1L for decrease in UOP to 15 cc/hr.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;  sneezing
   Penicillins
   Hives; Fever/Ch
   Last dose of Antibiotics:
   Clindamycin - [**2155-4-29**] 12:12 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 89 (69 - 107) bpm
   BP: 105/51(64) {89/44(55) - 114/67(75)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,266 mL
                                                                  1,054 mL
   PO:
             TF:
   IVF:
                                                                  3,111 mL
                                                                  1,054 mL
   Blood products:
                                                                    155 mL
   Total out:
                                                                  3,265 mL
                                                                    305 mL
   Urine:
                                                                  3,265 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                    749 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Pale, alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   188 K/uL
   7.5 g/dL
   85 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   110 mEq/L
   139 mEq/L
   21.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2155-4-27**]  09:02 PM
                             [**2155-4-28**]  03:10 AM
                             [**2155-4-28**]  11:47 AM
                             [**2155-4-28**]  04:41 PM
                             [**2155-4-29**]  04:36 AM
   WBC
   8.4
   8.7
   Hct
   25.3
   22.7
   22.4
   22.4
   21.3
   Plt
   178
   188
   Cr
   0.3
   0.4
   Glucose
   112
   85
   Other labs: PT / PTT / INR:13.6/23.4/1.2, Fibrinogen:282 mg/dL,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: None.
   Microbiology: None.
   Assessment and Plan
   34yo F G8P6 at 8weeks gestation admitted with uterine bleeding s/p
   Bakri balloon placement now admitted to [**Hospital Unit Name 4**] for closer monitoring.
   .
   # Uterine Bleeding: Now s/p balloon insertion; deflated balloon 15ccs
   this AM and will observe x4hr and if min VB, will remove intrauterine
   foley.  Bleeding and HCTs have been stable, pt has remained HD stable.
   - HCT: 22.4 --> 22.4--> 21.3 (received 1L bolus): discussed transfusion
   with ob/gyn, they requested holding off
   - Following OB/GYN recs: pt is Rh negative, received Rhogam, Fetal Hgb
   pending. Also remains on Clindamycin (in place of Keflex given PCN
   allergy) for intrauterine foley.
   - monitoring Hct Q6H and transfuse for hct <21
   - monitor bleeding from catheter in uterus and on pads
   - Active T+C
   - 2 PIVs in place
   .
   # Coagulopathy: PTT elevated. INR 1.3 given 1u FFP, now 1.2
   -Trend
   .
   # Type 1 diabetes: Usually uses insulin pump but taken off in setting
   of bleeding on admission, to restart today.
   - Continue insulin gtt until sure no further need for OR
   - Monitor FSBS Q1H per insulin gtt protocol
   .
   FEN: IVF (Lr@75ml/hr while NPO), replete electrolytes, NPO in case
   going to OR in am
   .
   ICU Care
   Nutrition: Still NPO.
   Glycemic Control: Insulin infusion
   Lines:
   18 Gauge - [**2155-4-27**] 07:46 PM
   Arterial Line - [**2155-4-27**] 07:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   Communication: Patient
   Code status: Full code
   Disposition: ICU

2155-04-29 12:21:00 Physician Attending Progress Note
Chief Complaint: Anemia--Secondary to blood loss
   Uterine Bleeding
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient without further evidence of brisk bleeding
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;  sneezing
   Penicillins
   Hives; Fever/Ch
   Last dose of Antibiotics:
   Clindamycin - [**2155-4-29**] 09:25 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-29**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 83 (75 - 107) bpm
   BP: 91/43(55) {75/33(45) - 114/57(67)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,266 mL
                                                                  1,106 mL
   PO:
             TF:
   IVF:
                                                                  3,111 mL
                                                                  1,106 mL
   Blood products:
                                                                    155 mL
   Total out:
                                                                  3,265 mL
                                                                    505 mL
   Urine:
                                                                  3,265 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   188 K/uL
   85 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   110 mEq/L
   139 mEq/L
   21.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2155-4-27**]  09:02 PM
                             [**2155-4-28**]  03:10 AM
                             [**2155-4-28**]  11:47 AM
                             [**2155-4-28**]  04:41 PM
                             [**2155-4-29**]  04:36 AM
   WBC
   8.4
   8.7
   Hct
   25.3
   22.7
   22.4
   22.4
   21.3
   Plt
   178
   188
   Cr
   0.3
   0.4
   Glucose
   112
   85
   Other labs: PT / PTT / INR:13.6/23.4/1.2, Fibrinogen:282 mg/dL,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Patient with admission with uterine bleeding noted and has had
   tamponade locally and with relief of tamponade patient has not had
   brisk bleeding return.
   1)Anemia--Secondary  to blood loss-
   -Follow for active bleeding
   -Transfuse for acute bleeding
   2)Uterine Bleeding-
   -Clindamycin
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   18 Gauge - [**2155-4-27**] 07:46 PM
   Arterial Line - [**2155-4-27**] 07:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes